US08242130B2
To a mixture of 3-bromochromone (1.5 g, 6.66 mmol), 4-methoxy phenyl boronic acid (1.01 g, 6.66 mmol), sodium carbonate (2.12 g, 20.0 mmol), toluene (40 mL) and water (10 mL) was added tetrakis-triphenyl phosphine palladium (385 mg, 0.33 mmol) under N2. The reaction mixture was heated to 110° C. for 5 h and then cooled to rt. Water was added and the mixture was extracted with EtOAc. The organic layer was separated, washed with water, brine, dried and concentrated to give crude product, which was purified by column chromatography, using 20% EtOAc in hexane to give, 885 mg of 4′-methoxychromone product in 52% yield. A mixture of the above mentioned 4′-methoxychromone (400 mg, 1.58 mmol) and pyridinium hydrochloride (5 g) was heated at 190° C. for 4 h. The reaction mixture was cooled to rt, diluted with water, neutralized with NaHCO3 and filtered to give 314 mg of 3-(4-hydroxyphenyl)-4H-chromen-4-one (83%). MS (ES) m/z: 239.95 (M+1), 238.99 (M); Mp. 237-238° C.

reactant | 3-bromochromone | 6.66 mmol, 1.5 g | BrC1=COC2=CC=CC=C2C1=O | C9H5BrO2
reactant | 4-methoxy phenyl boronic acid | 6.66 mmol, 1.01 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 20.0 mmol, 2.12 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | pyridinium hydrochloride | 5 g | Cl.[NH+]1=CC=CC=C1
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-hydroxyphenyl)-4H-chromen-4-one | 314 mg, 83% | OC1=CC=C(C=C1)C1=COC2=CC=CC=C2C1=O | C15H10O3
